Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
atorvastatin / Cipro
 
Attending: ___.
 
Chief Complaint:
Dyspnea, Chest Pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
 Mr. ___ is a ___ with PMH of HIV on HAART (VL suppressed 
on last admission ___, HCV cirrhosis s/p Harvoni, HTN, 
anemia, COPD, CAD s/p stents x7, bilateral PAD who presents with 
2 days of chest pain and dyspnea. Patient reports onset of chest 
pain while watching television the couch. Pain located in the 
___ his chest, associated with dyspnea, rated ___. This 
pain did not change with rest or exertion, but did improve with 
SL nitro. The patient reports associated dry cough and wheezing, 
which started around the time of his chest pain. Patient went to 
see his PCP ___ ___ for evaluation. He reportedly was given 
some oxygen, evaluated with an ECG which was unremarkable and 
his chest pain improved. The patient returned home following PCP 
appointment, but had recurrence of his pain and decided to call 
EMS to get to the ED for further evaluation. The patient was 
given full dose ASA with EMS.  
 In the ED, initial vitals: 97.8 76 135/54 20 97% RA  
 - Exam notable for: scattered wheeze  
 - EKG: Sinus, LAD, NI, STD V5  
 - Labs notable for:  
 - Imaging notable for: HCO2 21, AG 15, BUN 74, Cr 2.7; Hgb 7.8, 
Plt 89, Trop 0.03, MB 2  
 - Patient given: nitro 0.4mg, heparin gtt + bolus  
 - Vitals prior to transfer: 97.9 81 148/63 18 99% RA  
 On arrival to the floor, pt reports resolution of chest pain 
and dyspnea currently. Patient reports that his chest pain, when 
present was not associated with activity or relieved with rest, 
though it did feel somewhat improved with leaning forward. He 
endorses sinus congestion and dry cough. He denies fevers, 
chills. He denies sputum production. He denies myalgias. He 
sleeps on 3 pillows, which is his baseline and he reports 
baseline ___ edema. He denies PND, denies increased abdominal 
distention. He denies abdominal pain (he is followed by GI for 
IBS, which has been well controlled of late).
 
Past Medical History:
1. CARDIAC RISK FACTORS: +hypertension, +CKD, + HIV  
 2. CARDIAC HISTORY:  
 - CABG: None  
 - PERCUTANEOUS CORONARY INTERVENTIONS: CAD s/p Promus DES to 
mid-LAD, D1 branch, and distal-RCA on ___, s/p Premier DES 
to mLCX on ___. LAD ___.  
 - PACING/ICD: None  
 3. OTHER PAST MEDICAL HISTORY:  
 -HFpEF  
 -Mild AR  
 -CKD (Cr 1.4)  
 -PAD  
 -SIADH  
 -HIV  
 -HCV cirrhosis  
 -portal HTN  
 -GERD  
 -chronic diarrhea  
 -cervical stenosis  
 -COPD  
 -colonic polyps  
 -ACD  
 -G6PD deficiency  
 -peripheral neuropathy  
 -? pulmonary TB  
 -+RPR treated in the ___  
 
Social History:
___
Family History:
Mother with heart disease diagnosed at age ___. Brother with 
cardiomegaly.  
 
Physical Exam:
ADMISSION:
Vitals: T98.0, HR 70, BP 164/70, RR 18, O2 92% on RA  
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, JVP elevated to ear while flat  
Lungs: intermittent end-expiratory wheeze in RLL, no rales, 
rhonchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, non-tender, distended, bowel sounds present  
Ext: Warm, well perfused, no cyanosis, trace edema  
Skin: Without rashes or lesions  
Neuro: A&Ox3. Grossly intact.  

DISCHARGE:
General: NAD, resting comfortably
HEENT: Supple, JVP WNL
Lungs: CTAB, no crackles appreciated
CV: RRR no MRG
Abdomen: Soft, NTND, +BS, no rebound/guarding
Ext:  WWP, no ___ edema
 
Pertinent Results:
ADMISSION:
___ 01:35AM BLOOD WBC-5.4 RBC-2.50* Hgb-7.8* Hct-24.9* 
MCV-100* MCH-31.2 MCHC-31.3* RDW-12.0 RDWSD-44.0 Plt Ct-89*
___ 01:35AM BLOOD Neuts-37.8 ___ Monos-8.7 Eos-4.1 
Baso-0.4 Im ___ AbsNeut-2.05 AbsLymp-2.64 AbsMono-0.47 
AbsEos-0.22 AbsBaso-0.02
___ 08:45AM BLOOD ___ PTT-148.3* ___
___ 08:45AM BLOOD  WBC-4.9 Lymph-47.2 Abs ___ CD3%-89 
Abs CD3-2066* CD4%-17 Abs CD4-403 CD8%-71 Abs CD8-1634* 
CD4/CD8-0.25*
___ 01:35AM BLOOD Glucose-102* UreaN-74* Creat-2.7* Na-138 
K-4.5 Cl-101 HCO3-21* AnGap-21*
___ 01:35AM BLOOD CK(CPK)-240
___ 01:35AM BLOOD CK-MB-2 proBNP-295
___ 01:35AM BLOOD cTropnT-0.03*
___ 08:45AM BLOOD CK-MB-3 cTropnT-0.02*
___ 12:55PM BLOOD CK-MB-3 cTropnT-0.02*
___ 08:45AM BLOOD Calcium-9.5 Phos-4.0 Mg-2.0
___ 09:04AM BLOOD Lactate-1.5

DISCHARGE:
___ 05:52AM BLOOD WBC-5.1 RBC-2.52* Hgb-7.9* Hct-25.0* 
MCV-99* MCH-31.3 MCHC-31.6* RDW-12.0 RDWSD-43.7 Plt Ct-84*
___ 05:15AM BLOOD ___ PTT-39.6* ___
___ 05:52AM BLOOD Glucose-92 UreaN-85* Creat-2.9* Na-136 
K-4.3 Cl-100 HCO3-20* AnGap-20
___ 05:52AM BLOOD Calcium-8.8 Phos-5.4* Mg-1.9

TTE ___:
No atrial septal defect is seen by 2D or color Doppler. There is 
mild symmetric left ventricular hypertrophy with normal cavity 
size and regional/global systolic function (LVEF>55%). The 
estimated cardiac index is normal (>=2.5L/min/m2). Doppler 
parameters are indeterminate for left ventricular diastolic 
function. There is no ventricular septal defect. Right 
ventricular chamber size and free wall motion are normal. The 
ascending aorta is mildly dilated. The aortic valve leaflets (3) 
are mildly thickened but aortic stenosis is not present. Mild 
(1+) aortic regurgitation is seen. The mitral valve leaflets are 
mildly thickened. There is no mitral valve prolapse. Trivial 
mitral regurgitation is seen. The tricuspid valve leaflets are 
mildly thickened. The pulmonary artery systolic pressure could 
not be determined. There is no pericardial effusion. 

IMPRESSION: Mild symmetric left ventricular hypertrophy with 
preserved regional/global systolic function. Diastolic 
parameters indeterminate to assess diastolic function. 
Indeterminate pulmonary artery systolic pressures. Mild aortic 
regurgitation. Thoracic aortic dilatation. 
 
Brief Hospital Course:
___ PMH of HIV on HAART, CKD (baseline Cr approx. 2.0), 
diastolic CHF, PAD, CAD s/p stents x7, HCV cirrhosis s/p 
harvoni, G6PD deficiency who presents with chest tightness and 
dyspnea. Troponin T was elevated to 0.02 but remained stable. He 
had echocardiogram which showed mild symmetric LVH and mild 
aortic regurgitation, similar to prior echocardiogram. While 
here he also developed ___ from baseline 2.0 to 3.0 on 
discharge. Etiology was unclear as he appeared euvolemic and no 
significant med changes were made. Nephrology were consulted and 
will continue to follow up as outpatient.

# Chest tightness/dyspnea: 
The patient presented with atypical non-exertional chest pain 
not relieved by nitroglycerine and an EKG with non-specific 
changes including ST depression in V5 and otherwise similar to 
prior. Troponin T was elevated to 0.02 but remained stable. He 
had echocardiogram which showed mild symmetric LVH and mild 
aortic regurgitation, similar to prior echocardiogram. He 
remained chest pain-free for the remainder of hospitalization 
and he was discharged in stable condition. The patient should 
follow-up with cardiology.

# Acute Kidney Injury on CKD: 
The patient had a discharge creatinine of 3.0 from a baseline of 
2.0-2.1. Etiology was not certain. He appeared to be euvolemic 
and had no recent known medication changes. He should follow-up 
with nephrology and for a repeat outpatient creatinine.

TRANSITIONAL ISSUES:
- Hydralazine was changed to 150mg q12H
- Imdur was changed to 120 mg daily
- Home torsemide held on discharge for acute kidney injury
- The patient should have repeat labs as an outpatient including 
creatinine to follow-up for ___
- Routine blood pressure checks and adjustment of 
antihypertensive regimen as appropriate
- Nephrology was consulted and will continue to follow up as 
outpatient for ___
- The patient should follow-up with Cardiology

 # CONTACT: ___, niece ___, mobile:  
 ___ 
 # CODE STATUS: Full Confirmed   
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Abacavir Sulfate 300 mg PO BID 
2. Amlodipine 10 mg PO DAILY 
3. Aspirin 81 mg PO DAILY 
4. Carvedilol 25 mg PO BID 
5. Diltiazem Extended-Release 120 mg PO DAILY 
6. Docusate Sodium 100 mg PO BID 
7. Efavirenz 600 mg PO DAILY 
8. HydrALAZINE 75 mg PO Q6H 
9. Isosorbide Mononitrate (Extended Release) 90 mg PO DAILY 
10. LaMIVudine 100 mg PO DAILY 
11. Omeprazole 20 mg PO DAILY 
12. Ondansetron 4 mg PO Q8H:PRN nausea 
13. Oxybutynin 5 mg PO DAILY 
14. Pravastatin 20 mg PO QPM 
15. Senna 8.6 mg PO BID 
16. Albuterol Inhaler 2 PUFF IH Q6H:PRN wheeze 
17. Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain 
18. Torsemide 20 mg PO DAILY 
19. Lactulose 30 mL PO Q8H:PRN constipation 
20. Sodium Bicarbonate 325 mg PO DAILY:PRN GAS 
21. Tolterodine 2 mg PO QHS 
22. Cyanocobalamin ___ mcg PO DAILY 
23. Pantoprazole 40 mg PO Q24H 
24. Clopidogrel 75 mg PO DAILY 

 
Discharge Medications:
1.  HydrALAZINE 150 mg PO Q12H 
RX *hydralazine 50 mg 3 tablet(s) by mouth every twelve (12) 
hours Disp #*180 Tablet Refills:*0 
2.  Isosorbide Mononitrate (Extended Release) 120 mg PO DAILY 
RX *isosorbide mononitrate 120 mg 1 tablet(s) by mouth daily 
Disp #*30 Tablet Refills:*0 
3.  Abacavir Sulfate 300 mg PO BID  
4.  Albuterol Inhaler 2 PUFF IH Q6H:PRN wheeze  
5.  Amlodipine 10 mg PO DAILY  
6.  Aspirin 81 mg PO DAILY  
7.  Carvedilol 25 mg PO BID  
8.  Clopidogrel 75 mg PO DAILY  
9.  Cyanocobalamin ___ mcg PO DAILY  
10.  Diltiazem Extended-Release 120 mg PO DAILY  
11.  Docusate Sodium 100 mg PO BID  
12.  Efavirenz 600 mg PO DAILY  
13.  Lactulose 30 mL PO Q8H:PRN constipation  
14.  LaMIVudine 100 mg PO DAILY  
15.  Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain  
16.  Omeprazole 20 mg PO DAILY  
17.  Ondansetron 4 mg PO Q8H:PRN nausea  
18.  Oxybutynin 5 mg PO DAILY  
19.  Pantoprazole 40 mg PO Q24H  
20.  Pravastatin 20 mg PO QPM  
21.  Senna 8.6 mg PO BID  
22.  Sodium Bicarbonate 325 mg PO DAILY:PRN GAS  
23.  Tolterodine 2 mg PO QHS  
24. HELD- Torsemide 20 mg PO DAILY  This medication was held. Do 
not restart Torsemide until you discuss with Dr. ___ 
___ week.

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary
Chest pain

Secondary
Acute kidney injury
Chronic kidney disease
Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the hospital because you had chest 
tightness and shortness of breath. You had a very slight 
elevation in the blood tests that look at your heart, but this 
remained stable. You had an echocardiogram which did not show 
any significant changes. We are not sure exactly what caused 
your shortness of breath but you began to feel better while you 
were here.

While you were here, you also had worsening of your kidney 
function. We asked the kidney doctors to ___ you and they 
will continue to see you as an outpatient. In the meantime you 
should stop taking your torsemide.

When you go home, please remember to take all of your 
medications as directed. It will also be important to follow up 
with your primary doctor. If you feel worsening chest 
discomfort, shortness of breath, or any other concerning 
symptoms, call your doctor or return to the emergency department 
immediately. 

Thank you for allowing us to care for you here,

Your ___ Care Team
 
Followup Instructions:
___